US09370516B2
(R)-2-(2-methylimidazo[2,1-b]thiazol-6-yl)-1-(2-(5-(6-methylpyrimidin-4-yl)-2,3-dihydro-1H-inden-1-yl)-2,7-diazaspiro[3.5]nonan-7-yl)ethanone
To a suspension of 2-[(R)-5-(6-methyl-pyrimidin-4-yl)-indan-1-yl]-2,7-diaza-spiro[3.5]nonane dihydrochloride (540 mg, 1.22 mmol) in 10 mL of dichloromethane was added triethylamine (492 mg, 4.90 mmol). Once the mixture became a homogenous solution, it was added to a solution of 2-(2-methylimidazo[2,1-b]thiazol-6-yl)acetic acid hydrochloride (251 mg, 1.28 mmol) in 3 mL of dichloromethane. The mixture was stirred for 5 minutes and HBTU (462 mg, 1.22 mmol) in 2 mL of DMF was added. The reaction was stirred at room temperature for 1.5 hours. The reaction was quenched by the addition of 10 mL of NaHCO3 and was diluted with 50 mL of dichloromethane. The organic layer was washed with saturated brine, dried over Na2SO4, filtered and the filtrate was concentrated. The residue was dissolved in 5 mL of CH3CN and the solution was heated to 100° C. for 1 hour with stirring. The mixture was cooled to room temperature and the resulting solids were vacuum filtered to afford the desired product as an off white powder (428 mg, 69%). MS (ES+) 513.5 (M+H)+. 1H NMR (CD3OD) δ 1.70-1.74 (m, 4H), 1.88-1.96 (m, 1H), 2.27-2.34 (m, 2H), 2.40 (s, 3H), 2.58 (s, 3H), 2.86-2.97 (m, 1H), 3.11-3.15 (m, 1H), 3.31-3.34 (m, 3H), 3.52-3.55 (m, 4H), 3.78 (s, 2H), 4.05-4.09 (m, 1H), 7.33 (s, 2H), 7.55 (d, 1H), 7.78-7.79 (m, 1H), 7.94-8.03 (m, 2H), 8.93 (s, 1H). [α]D20=+45.3 deg (c=2.5 mg/mL, MeOH).

reactant | 2-[(R)-5-(6-methyl-pyrimidin-4-yl)-indan-1-yl]-2,7-diaza-spiro[3.5]nonane dihydrochloride | 1.22 mmol, 540 mg | Cl.Cl.CC1=CC(=NC=N1)C=1C=C2CC[C@H](C2=CC1)N1CC2(C1)CCNCC2
reactant | triethylamine | 4.90 mmol, 492 mg | C(C)N(CC)CC | C6H15N
reactant | 2-(2-methylimidazo[2,1-b]thiazol-6-yl)acetic acid hydrochloride | 1.28 mmol, 251 mg | Cl.CC1=CN2C(S1)=NC(=C2)CC(=O)O
reactant | HBTU | 1.22 mmol, 462 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | (R)-2-(2-methylimidazo[2,1-b]thiazol-6-yl)-1-(2-(5-(6-methylpyrimidin-4-yl)-2,3-dihydro-1H-inden-1-yl)-2,7-diazaspiro[3.5]nonan-7-yl)ethanone | CC1=CN2C(S1)=NC(=C2)CC(=O)N2CCC1(CN(C1)[C@@H]1CCC3=CC(=CC=C13)C1=NC=NC(=C1)C)CC2 | C29H32N6OS
